US07799822B2
To a stirring solution of finely ground KOH (1.2 g, 20.4 mmol) in DMSO (6 mL) was added 3-chloro-4-fluorophenol (1.0 g, 6.8 mmol). The mixture was stirred for 10 minutes at RT, then cooled to 0° C. Methyl bromoacetate (1.25 g, 8.2 mmol) was added, and the reaction was slowly warmed to RT and stirred overnight. H2O (10 mL) and MeOH (10 mL) were added to the mixture, and the reaction was stirred for 1 h. After removing MeOH under reduced pressure, H2O (100 mL) and Et2O (50 mL) were added, and the layers were separated. The aqueous phase was acidified to pH 2 with an aqueous concentrated HCl solution and extracted with CH2Cl2 (200 mL). The organic layer was dried over MgSO4, filtered, concentrated, and dried to give 2-(3-chloro-4-fluorophenoxy)acetic acid as a white solid (1.1 g, 79%). 1H NMR (400 MHz, CDCl3) δ 7.10 (t, J=8.8 Hz, 1H), 7.01-6.98 (m, 1H), 6.84-6.80 (m, 1H), 4.68 (s, 2H).

reactant | KOH | 20.4 mmol, 1.2 g | [OH-].[K+]
reactant | 3-chloro-4-fluorophenol | 6.8 mmol, 1.0 g | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | Methyl bromoacetate | 8.2 mmol, 1.25 g | BrCC(=O)OC | C3H5BrO2
reactant | H2O | 10 mL | O | H2O
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | MeOH | 10 mL | CO | CH4O
product | 2-(3-chloro-4-fluorophenoxy)acetic acid | 1.1 g, 79% | ClC=1C=C(OCC(=O)O)C=CC1F | C8H6ClFO3
